US06573267B2
Into a flask was placed 46 g (0.12 mole) of 3-(2-naphthalenoyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole, 250 mL of 1,4-dioxane and 59.8 mL (0.18 mole) of 3 N NaOH. The reaction mixture was stirred overnight after which Et2O and water were added. The organics were separated off, washed with water, brine and dried (Na2SO4). Evaporation of the solvent in vacuo and crystallization from toluene gave 13.5 g of (51%) 3-(2-naphthalenoyl)-1H-pyrrole. mp134-136° C. CIMS m/z 223 (MH+). 1H NMR (300 MHz, CDCl3) δ 8.35 (Ar, 1H); 7.9 (Ar, 4H); 7.7 (Ar, 1H); 7.5 (Ar, 2H); 7.4 (Ar, 1H); 6.85 (Ar, 1H).

reactant | 3-(2-naphthalenoyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole | 0.12 mole, 46 g | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C | C22H17NO3S
reactant | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | 0.18 mole, 3 N, 59.8 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-(2-naphthalenoyl)-1H-pyrrole | 13.5 g, 51% | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CNC=C1 | C15H11NO
